US05340831
Preparation of 3-(R,S)-(1-carbamoyl-1,1-diphenylmethyl)-1-(4-carbamoylphenethyl)pyrrolidine
A mixture containing 3-(R,S)-(1-carbamoyl-1,1-diphenylmethyl)pyrrolidine (0.3 g--see Preparation 8), 4-carbamoylphenethyl bromide (0.25 g--see Preparation 13), anhydrous potassium carbonate (0.4 g) and acetonitrile (10 ml) was heated under reflux for 5 hours. On cooling to room temperature, water (40 ml) was added and the resulting mixture extracted with dichloromethane (3×30 ml). The combined dichloromethane extracts were dried (MgSO4) and concentrated in vacuo to give a yellow foam which was purified by column chromatography on silica eluting with dichloromethane containing methanol (0% up to 10%). The product-containing fractions were combined and concentrated in vacuo to give the title compound as a colourless foam, yield, 0.13 g.

reactant | 3-(R,S)-(1-carbamoyl-1,1-diphenylmethyl)pyrrolidine | 0.3 g | C(N)(=O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1CNCC1 | C18H20N2O
reactant | 4-carbamoylphenethyl bromide | 0.25 g | C(N)(=O)C1=CC=C(CCBr)C=C1 | C9H10BrNO
reactant | potassium carbonate | 0.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | water | 40 ml | O | H2O
product | 3-(R,S)-(1-carbamoyl-1,1-diphenylmethyl)-1-(4-carbamoylphenethyl)pyrrolidine | C(N)(=O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1CN(CC1)CCC1=CC=C(C=C1)C(N)=O | C27H29N3O2
